US05171851
Preparation of 2-amino-methyl-5-(4-methylimidazol-1-yl)benzylalcohol
2-amino-3-methyl-5-(4-methylimidazol-1-yl)benzaldehyde (57 mg) was dissolved in methanol (1 ml) and sodiumborohydride (40 mg) was added thereto at 0° C. The mixture was stirred at room temperature for 6 hours and was distilled under reduced pressure to remove solvent. To the residue was added water. The mixture was extracted with chloroform. The extract was dried with Na2SO4 and distilled to give 34 mg (59%) of the title compound.

reactant | 2-amino-3-methyl-5-(4-methylimidazol-1-yl)benzaldehyde | 57 mg | NC1=C(C=O)C=C(C=C1C)N1C=NC(=C1)C | C12H13N3O
reactant | sodiumborohydride | 40 mg | [BH4-].[Na+]
reactant | methanol | 1 ml | CO | CH4O
product | 2-amino-methyl-5-(4-methylimidazol-1-yl)benzylalcohol | 34 mg, 59% | NC1=C(C(C)O)C=C(C=C1)N1C=NC(=C1)C | C12H15N3O
